US08461329B2
To a solution of 4-(2-methoxy-2-oxoethyl)benzoic acid (1.00 g) in acetonitrile (50 ml), N,N-diisopropyl ethyl amine (2.63 ml), O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (2.94 g) and 2-(4-chlorophenyl)ethylamine (790 ml) were added, and the mixed solution was stirred at room temperature for 16 hours. The solvent was removed by evaporation under reduced pressure, and the resulting crude product was purified by column chromatography (neutral OH type silica gel, ethyl acetate/n-hexane=30 to 50%) to give methyl (4-{[2-(4-chlorophenyl)ethyl]carbamoyl}phenyl)acetate (2.02 g).

reactant | 4-(2-methoxy-2-oxoethyl)benzoic acid | 1.00 g | COC(CC1=CC=C(C(=O)O)C=C1)=O | C10H10O4
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 2.94 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 2-(4-chlorophenyl)ethylamine | 790 ml | ClC1=CC=C(C=C1)CCN | C8H10ClN
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | N,N-diisopropyl ethyl amine | 2.63 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | methyl (4-{[2-(4-chlorophenyl)ethyl]carbamoyl}phenyl)acetate | 2.02 g | ClC1=CC=C(C=C1)CCNC(=O)C1=CC=C(C=C1)CC(=O)OC | C18H18ClNO3
